US06846832B2
a) 4-Methoxy-2-methyl-benzoic Acid Methyl Ester
According to J. Org. Chem. 33:494 (1968), a mixture of 4-methoxy-2-methylbenzoic acid (20 g, 120 mmol) and MeOH (97 mL) containing sulfuric acid (conc., 0.6 mL) was heated under reflux 48 h. After cooling the mixture was evaporated and the residue diluted with diethyl ether and washed with a saturated sodium hydrogen carbonate solution and brine. The organic phase was then separated and dried over sodium sulphate. After evaporation the residue was distilled through a 8 cm Vigreux column to afford the title compound (21.2 g, 98%) as a colourless liquid. Bp 60° C./1 mbar. MS: m/e=180.3 (M+).

reactant | 4-methoxy-2-methylbenzoic acid | 120 mmol, 20 g | COC1=CC(=C(C(=O)O)C=C1)C | C9H10O3
reactant | sulfuric acid | 0.6 mL | S(O)(O)(=O)=O | H2O4S
reactant | MeOH | 97 mL | CO | CH4O
product | 4-Methoxy-2-methyl-benzoic Acid Methyl Ester | 21.2 g, 98% | COC(C1=C(C=C(C=C1)OC)C)=O | C10H12O3
